Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
exertional chest pain

 
Major Surgical or Invasive Procedure:
Cardiac Cath ___:
Dominance: Right
* Left Main Coronary Artery
The LMCA is free of significant CAD.
* Left Anterior Descending
The LAD is free of significant CAD. There is slightly slow flow 
to apex and moderate mid systolic
bridging.
* Circumflex
The Circumflex is free of significant CAD.
* Right Coronary Artery
The RCA is free of significant CAD.
Intra-procedural Complications: None
Impressions:
1. No significant obstructive CAD.
2. Systolic LAD bridging of uncertain significance.

 
History of Present Illness:
___ with uncontrolled HTN, well controlled HIV and no prior 
cardiac events presents with exertional chest pain for about 10 
days. 

States that during last 10 days, has intermittent (every other 
day or so) chest discomfort that starts when he is exerting 
himself (not always). No sx while at rest. Sx improve with rest. 
Last ___ min. Associated with diaphoresis. No radiation of 
pain. ___ some mild SOB. No chest pain that awakens from 
sleep. No PND or orthopnea. Did note swelling of legs after 6hr 
road trip but not otherwise. No DOE.

Denies sx like this before. Also concerned about blood pressure 
that is at home 150s/100s and higher in the ED today. He has not 
taken any new meds for his chest pain. Denies preceding illness 
or sick contacts. 

In the ED initial vitals were: afebrile, HR 109, BP 192 / 127, 
100% RA
EKG: 
Labs/studies notable for: 
-- Trop x2 Negative (1 at 12:45 am, ___ at 6:45am), BNP 133, 
DDimer < 100, BMP wnl, CBC with Hct 37.6 (baseline 45), CXR 
normal
Patient was given: ASA 325, and rest of home meds

-- After OBS in ED went to ETT this AM --> got to 85% max 
predicted HR without EKG changes but had chest tightness and 
became lightheaded with near syncope at max HR and test had to 
be stopped. No concerning BP or HR changes.
- He was seen by Cards Fellow who recommended admission for 
stress/imaging vs cath

Vitals on transfer: 97.6, HR 70, BP 111/74, 96% on RA

On the floor he is comfortable and good historian who relates 
the story above. Emphasizes his big concern about blood pressure 
as well. Reviewed ROS with him and no s/s to suggest recent 
infection. Does endorse polyuria without dysuria. 

REVIEW OF SYSTEMS:
- Positive /negative per HPI.
- No fevers/chills/sweats. No joint sx. No new rash. No malaise 
or URI sx, no recent illness otherwise. No hematochezia, no 
dysuria, no blood in urine

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Hypertension
2. CARDIAC HISTORY
- no CAD Hx, No CHF Hx and no arrhythmia hx
3. OTHER PAST MEDICAL HISTORY
- HIV
- prior Syphilis 
- Hypothyroidism

 
Social History:
___
Family History:
-Father MI in ___ then had multiple stents and CABG ___ 
___)

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
============================
VS: 98.1, 108/86, 73, 98%RA, ___ pain
GENERAL: Well appearing ___ laying in bed, fully oriented in no 
distress
HEENT: Conjunctiva normal, no scleral icterus, moist mucosa
NECK: Supple no jvd
CARDIAC: normal rhythm, rate in the ___, prominent s1, quiet s2, 
no murmur
LUNGS: clear with good air movement in all fields
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: No edema, thin. Warm, well perfused. No clubbing, 
cyanosis.
SKIN: ___ burn diffuse
PULSES: Distal pulses palpable and symmetric.

PHYSICAL EXAM ON DISCHARGE:
============================
Vitals: T 98  HR 61-70  BP 95-116/69-71  RR 18 ___ on RA  
I/O= NPO/not saved  
Weight:  80.4kg  
Telemetry: No events
General:  Well built well appearing male in no acute distress. 
AAO x 3. 
HEENT:  Conjunctiva normal, no scleral icterus, EOMI, mucous 
membranes moist
NECK: Supple, no JVD
LUNGS:  Clear to auscultation bilaterally, no crackles, wheezes 
or rhonchi.
CV:  normal rate and rhythm, normal s1, s2, no murmur, rubs or 
gallops
ABDOMEN:  Soft, non-tender, non-distended
EXT: No edema, or discoloration. Warm, well perfused. No 
clubbing, cyanosis.
PULSES: Radial and distal pulses palpable and symmetric.
 
Pertinent Results:
LABS ON ADMISSION:
===================
___ 11:40PM BLOOD WBC-6.5 RBC-4.11* Hgb-13.1* Hct-37.6* 
MCV-92 MCH-31.9 MCHC-34.8 RDW-13.3 RDWSD-44.7 Plt ___
___ 11:40PM BLOOD Neuts-55.3 ___ Monos-7.5 Eos-2.9 
Baso-0.5 Im ___ AbsNeut-3.60 AbsLymp-2.14 AbsMono-0.49 
AbsEos-0.19 AbsBaso-0.03
___ 11:40PM BLOOD ___ PTT-34.6 ___
___ 11:40PM BLOOD Glucose-123* UreaN-17 Creat-0.9 Na-139 
K-3.4 Cl-106 HCO3-24 AnGap-12
___ 11:50PM BLOOD D-Dimer-<100
___ 11:40AM BLOOD %HbA1c-5.5 eAG-111

LABS ON DISCHARGE:
===================
___ 05:45AM BLOOD WBC-7.5 RBC-4.37* Hgb-13.8 Hct-40.6 
MCV-93 MCH-31.6 MCHC-34.0 RDW-13.6 RDWSD-46.8* Plt ___
___ 05:45AM BLOOD Neuts-52.9 ___ Monos-6.8 Eos-2.3 
Baso-0.3 Im ___ AbsNeut-3.99 AbsLymp-2.77 AbsMono-0.51 
AbsEos-0.17 AbsBaso-0.02
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-89 UreaN-22* Creat-1.2 Na-139 
K-4.3 Cl-103 HCO3-25 AnGap-15
___ 05:45AM BLOOD ALT-40 AST-33 CK(CPK)-74
___ 05:45AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:45AM BLOOD Calcium-9.6 Phos-4.0 Mg-2.4

STRESS ECHO ___:
========================

EKG:  NSR   
HEART RATE:  67 BLOOD PRESSURE:  132/100 
  
PROTOCOL ___ - TREADMILL 
STAGE TIME SPEED ELEVATION HEART BLOOD RPP 
  (MIN) (MPH) (%) RATE PRESSURE   
1 ___ 1.7 10 100 154/94 ___ 
2 ___ 2.5 12 122 168/76 ___ 3.4 14 139 210/60 ___ 
  
TOTAL EXERCISE TIME:  8.5 % MAX HRT RATE ACHIEVED:  85 
 

ST DEPRESSION: NONE 
 

  
INTERPRETATION: ___ yo man with HTN and family history for CAD 
was 
referred to evaluate an atypical chest discomfort. The patient 
completed 
8.5 minutes of ___ protocol representing an average exercise 

tolerance; ___ METS. Although the test was about to be stopped 
due to 
fatigue, exercise was stopped when the patient became abruptly 
lightheaded and request that the test be stopped. This was 
reported in 
the absence of an arrhythmia or drop in systolic blood pressure. 
At peak 
exercise, the patient reported an abrupt, anterior chest 
tightness and 
severe lower back discomfort. This discomfort resolved with rest 
and was 
absent 5 minutes post-exercise. The patient reported exhaustion 
and 
lightheadedness throughout recovery. No significant ST segment 
changes 
were noted. The rhythm was sinus with two isolated VPBs noted 
early in 
exercise. Diastolic hypertension was noted at rest with an 
appropriate 
hemodynamic response with exercise. 
  
IMPRESSION: Questionable anginal symptoms with no ischemic ST 
segment 
changes. Test terminated at patient request secondary to 
pre-syncope in 
the absence of arrhythmia, drop in systolic blood pressure or 
ischemic 
ST segment changes 
 

CARDIAC CATH ___:
=======================
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is free of significant CAD.
* Left Anterior Descending
The LAD is free of significant CAD. There is slightly slow flow 
to apex and moderate mid systolic
bridging.
* Circumflex
The Circumflex is free of significant CAD.
* Right Coronary Artery
The RCA is free of significant CAD.
Intra-procedural Complications: None
Impressions:
1. No significant obstructive CAD.
2. Systolic LAD bridging of uncertain significance.
Recommendations
1. Continue evaluation of chest pain and risk factor management.
 
Brief Hospital Course:
___ with HTN who presents with 10 days of intermittent 
atypical chest discomfort who had negative troponin X 2 with 
inability to complete stress test due to presycope. Cardiac cath 
without evidence of obstructive coronary disease. 

# Atypical Chest Pain
Mr. ___ was admitted to the hospital with chest pain. He 
underwent exercise stress without EKG changes but was found to 
have pre-syncopal symptoms for which the test was terminated. He 
underwent cardiac catheterization that showed no significant 
obstructive coronary disease and systolic LAD bridging that was 
not felt to be clinically significant. 

# Hypertension
Patient with blood pressure up to 190 on arrival to ___ ED. 
Patient was started on hydrochlorothiaze 25 mg daily and 
lisinopril 40 mg daily with blood pressures in systolics of 
90-100. 

The patient's hydrochlorothiazide was stopped and amlodipine 5 
mg daily was started. Pravastatin 20 mg daily was started in 
setting of hyperlipidemia. Blood pressure was slightly low at 
90-100's prior to discharge for which 500 cc normal saline 
given. Patient instructed to take amlodipine 5 mg daily started 
on ___ if SBP > 120. 

# Presyncope:
Patient was felt to be hypovolemic and as such 500 cc normal 
saline given. Patient did not have orthostatic hypotension at 
time of discharge and ambulating without symptoms.

# Normoctyic Anemia
Hemoglobin and hematocrit remained at patient's baseline.

# HIV 
-continued Truvada, boosted darunavir and raltegravir 

# Hypothyroidism
-continued levothyroxine

TRANSTIONAL ISSUES:
===================
-HCTZ stopped as felt to contribute to HLD
-Amlodipine 5 mg daily started
-Pravastatin 20 mg daily started
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Dolutegravir 50 mg PO DAILY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Darunavir 800 mg PO DAILY 
5. RiTONAvir 100 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Levothyroxine Sodium 88 mcg PO DAILY 

 
Discharge Medications:
1. Darunavir 800 mg PO DAILY 
2. Dolutegravir 50 mg PO DAILY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. Lisinopril 40 mg PO DAILY 
6. RiTONAvir 100 mg PO DAILY 
7. amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Pravastatin 20 mg PO QPM 
RX *pravastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Atypical Chest Pain

Secondary Diagnosis:
Hypertension
HIV
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital with chest pain. You had an evaluation 
of your chest pain with cardiac testing including cardiac 
catheterization that did not show any evidence of a blockage in 
the heart which is great news. We made some changes to your 
blood pressure medications and started a medication called 
amlodipine to treat your blood pressure and stopped 
hydrochlorothiazide. We also started a medication called 
pravastatin for your cholesterol.

Please check your blood pressure at home tomorrow and if the 
systolic blood pressure or top number on the reading is 120 or 
greater take amlodipine in addition to your lisinopril for your 
blood pressure.  

Please follow up with your appointments below.

It was a pleasure being involved in your care,
Your ___ Team
 
Followup Instructions:
___